US07625932B2
Preparation of 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]benzenecarbonitrile
Add 2-(4-iodophenyl)benzenecarbonitrile (10.0 grams, 0.0328 moles, preparation 57), acetonitrile (100 mL), and triethylamine (8.50 grams, 0.084 moles) to a 250 mL 3-neck flask equipped with a condenser, internal temperature probe, septum, and heating mantle and stir under a nitrogen atmosphere. Add pinacol borane (6.7 grams, 0.0524 moles) and palladium black (0.174 grams, 0.00164 moles). Heat the reaction mixture to reflux and stir at reflux for 135 minutes. Cool the reaction mixture to ambient temperature and filter to remove palladium black Concentrate the filtrate to a solid under reduced pressure (15-25 mm) and dissolve the solid in isopropyl acetate (100 mL) and water (50 mL). Transfer the resulting mixture to a separatory funnel and separate phases. Discard the aqueous phase and dilute the organic phase with heptane (50 mL), water (50 mL) and dichloromethane (30 mL). Separate the phases and discard the aqueous phase. Add water (50 mL) and warm the mixture to 60° C. Stir at 60° C. for 5 minutes, then separate the phases. Extract the aqueous phase with methyl-tert-butyl ether (30 mL), separate the phases and discard the aqueous phase. Combine the organic phases and concentrate to an oil (12.5 grams) under reduced pressure. Dissolve the oil in a mixture of methyl-tert-butyl ether (1.5 mL) and dichloromethane (28.5 mL) and apply the solution to a 40 gram silica gel column. Elute the sample from the column using a mixture of methyl-tert-butyl ether (7.5 mL) and dichloromethane (142.5 mL). Concentrate the resulting solution to an oil (10.2 grams) under reduced pressure (15-25 mm). Observe that the oil spontaneously crystallizes upon standing at room temperature. Suspend the resulting solid in pentane (30 mL) and filter to recover the solid. Suspend the solids in a mixture of methyl-tert-butyl ether (3 mL) and pentane (70 mL), then filter the suspension to recover the solid product. Vacuum dry the solid at 25° C. under reduced pressure (15-25 mm). Suspend the solid again in a mixture of methyl-tert-butyl ether (3 mL) and pentane (50 mL), filter and dry the solid at 25° C. under reduced pressure (15-25 mm) to provide the title compound (5.8 g, 0.019 moles) in 57.9% yield. 1H NMR (CDCl3, 500.0 MHz): δ 7.92 (app. d, 2H, J=8); 7.75 (dd, 1H, J=1, 7.5); 7.62 (td, 1H, J=1.5, 7.5); 7.55 (app. d, 211, J=8); 7.50 (dd, 1H, J=1, 7.5); 7.43 (td, 1H, 1, 7.5); 1.35 (s, 12H).

reactant | 2-(4-iodophenyl)benzenecarbonitrile | 0.0328 moles, 10.0 grams | IC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C13H8IN
reactant | triethylamine | 0.084 moles, 8.50 grams | C(C)N(CC)CC | C6H15N
reactant | pinacol borane | 0.0524 moles, 6.7 grams | B.OC(C)(C)C(C)(C)O
catalyst | palladium black | 0.00164 moles, 0.174 grams | [Pd] | Pd
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]benzenecarbonitrile | 0.019 moles, 5.8 g, 57.9% yield | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C | C19H20BNO2
